US06448242B1
An aqueous 5N sodium hydroxide (5 ml; 25 mmol) was added to a solution in methanol (5 ml) of methyl 2,2-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]acetate (906 mg; 1.9 mmol) synthesized by the process described in Referential Example 3, and the mixture was stirred for 30 minutes in a bath controlled at 100° C. The reaction mixture was made acidic by addition of 6N hydrochloric acid and extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel, thereby obtaining 861 mg (yield: 98%) of 2,2-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]acetic acid as a colorless oil.

reactant | sodium hydroxide | 25 mmol, 5N, 5 ml | [OH-].[Na+]
reactant | methyl 2,2-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]acetate | 1.9 mmol, 906 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(C(=O)OC)CC1CCN(CC1)C(=O)OC(C)(C)C | C25H44N2O6
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 2,2-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]acetic acid | 861 mg, yield: 98% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(C(=O)O)CC1CCN(CC1)C(=O)OC(C)(C)C | C24H42N2O6
